US06329370B1
N-hydroxy-4-(6-methoxy-4-thiazol-2-yl-phthalazin-1-yl)-butyramide (Compound 67)
A solution of sodium (388 mg, 16.9 mmoles) in CH3OH (6 ml) was added with hydroxylamine hydrochloride (1.3 g, 18.71 mmoles). The resultant solution was added to a solution of 4-(6-methoxy-4-thiazol-2-yl-phthalazin-1-yl)-butyric acid methyl ester (1.5 g, 4.4 mmoles), prepared as described in example 115, in CH3OH (30 ml), and stirred at room temperature for 2 days, then refluxed for 7 hours. NH2OH.HCl (1.6 g) and sodium (450 mg) were added, and the mixture was refluxed. After 1 night further NH2OH.HCl (0.9 g) and sodium (257 mg) were added, and the mixture was refluxed for 24 hours. The precipitate was filtered off and the mother liquors dried, taken up in water and filtered. The resultant solid was chromatographed (eluent: CH2Cl2/CH3OH 95:5) to give a solid which was suspended in water, dissolved in 10% NaOH and precipitated with saturated ammonium chloride to give 430 mg of the title compound (yield: 28.6%). m.p.: 189-190° C. (dec.).

reactant | sodium | 16.9 mmoles, 388 mg | [Na] | Na
reactant | hydroxylamine hydrochloride | 18.71 mmoles, 1.3 g | Cl.NO
reactant | 4-(6-methoxy-4-thiazol-2-yl-phthalazin-1-yl)-butyric acid methyl ester | 4.4 mmoles, 1.5 g | COC(CCCC1=NN=C(C2=CC(=CC=C12)OC)C=1SC=CN1)=O | C17H17N3O3S
reactant | NH2OH.HCl | 1.6 g | NO.Cl
reactant | sodium | 450 mg | [Na] | Na
reactant | NH2OH.HCl | 0.9 g | NO.Cl
reactant | sodium | 257 mg | [Na] | Na
solvent | CH3OH | 6 ml | CO | CH4O
solvent | CH3OH | 30 ml | CO | CH4O
solvent | water | O | H2O
solvent | NaOH | [OH-].[Na+]
product | N-hydroxy-4-(6-methoxy-4-thiazol-2-yl-phthalazin-1-yl)-butyramide | 430 mg, yield: 28.6% | ONC(CCCC1=NN=C(C2=CC(=CC=C12)OC)C=1SC=CN1)=O | C16H16N4O3S
